US06034239
N-[2-(7,8-dihydro-6H-indeno[4,5-d]-1,3-dioxol-8-yl)ethyl]butyramide
A solution of N-[2-(6,7-dihydroxyindan-1-yl)ethyl]butyramide (1.13 g, 4.29 mmol.), dibromomethane (2.98 g, 17.2 mmol.), potassium carbonate (1.78 g, 12.9 mmol.) and copper-(II) oxide (34 mg, 0.43 mmol.) in N,N-dimethylformamide (15 mL) was stirred for 3 hours at 110° C. The reaction mixture was cooled, which was poured into water, followed by neutralizing with dilute hydrochloric acid. The organic matter was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was then dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of silica gel column chromatography (ethyl acetate) to afford the title compound (yield 785 mg, 67%).

reactant | N-[2-(6,7-dihydroxyindan-1-yl)ethyl]butyramide | 4.29 mmol, 1.13 g | OC1=CC=C2CCC(C2=C1O)CCNC(CCC)=O | C15H21NO3
reactant | dibromomethane | 17.2 mmol, 2.98 g | BrCBr | CH2Br2
reactant | potassium carbonate | 12.9 mmol, 1.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | copper-(II) oxide | 0.43 mmol, 34 mg | [Cu]=O
solvent | water | O | H2O
product | N-[2-(7,8-dihydro-6H-indeno[4,5-d]-1,3-dioxol-8-yl)ethyl]butyramide | yield 785 mg, 67% | O1COC2=C1C=1C(CCC1C=C2)CCNC(CCC)=O | C16H21NO3
